US04863920
14.14 g (49.5 mmol) of ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate in 100 ml of tetrahydrofuran were treated portionwise at the boiling temperature with 1.35 g (62 mmol) of lithium borohydride, whereupon the mixture was boiled at reflux for 6 hours. The reaction mixture was then cooled, a mixture of 20 ml of water and 20 ml of concentrated hydrochloric acid was cautiously added thereto, the mixture was heated, stirred at the boiling temperature for 30 minutes, again cooled and treated with concentrated ammonia until the reaction was alkaline. The organic solvent was distilled off on a rotary evaporator and the aqueous suspension obtained was cooled and filtered. The filter residue was washed with water and dried. There was obtained 4,5-dihydro-3-hydroxymethyl-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 219°-221°.

reactant | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 49.5 mmol, 14.14 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
reactant | lithium borohydride | 62 mmol, 1.35 g | [BH4-].[Li+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 4,5-dihydro-3-hydroxymethyl-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | OCC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C13H13N3O2
